US07244843B2
Step A. Preparation N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-10b-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one
To a stirring solution of N-(t-butoxycarbonyl)-(S)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one (150 mg, 0.4 mmol) and methyl iodide (125 mg, 0.9 mmol) in dry DMF (6 mL) was added sodium hydride (15 mg, 0.6 mmol). The reaction was stirred for 3 h and then quenched with brine. The reactionwas extracted with EtOAc (3×10 mL). The organic layers were combined, dried over Na2SO4, and conc. in vacuo to a brown oil. The oil was purified by flash chromatography (silica gel, 0–50% EtOAc in hexanes) to yield 59 mg of the desired product as a white solid. MS (ESI) 371 (M+H).

reactant | N-(t-butoxycarbonyl)-(S)-1,3,4,10b-tetrahydro-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 0.4 mmol, 150 mg | C(C)(C)(C)OC(=O)N1C[C@H]2N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1 | C17H19F3N2O3
reactant | methyl iodide | 0.9 mmol, 125 mg | CI | CH3I
reactant | sodium hydride | 0.6 mmol, 15 mg | [H-].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | N-(t-butoxycarbonyl)-(±)-1,3,4,10b-tetrahydro-10b-methyl-7-trifluoromethyl-pyrazino[2,1-a]isoindol-6(2H)-one | 59 mg | C(C)(C)(C)OC(=O)N1CC2(N(C(C3=C(C=CC=C23)C(F)(F)F)=O)CC1)C | C18H21F3N2O3
